US05583221
An ice-cooled (5° C.) solution of tri-methylsilyldiazomethane/hexane (2N, 30 mL, 60 mmol) under nitrogen was treated dropwise with a solution of quinuclidin-3-one free base (from aqueous Na2CO3 neutralization of HCl salt followed by ether extraction, 6.26 g, 50 mmol) in anhydrous tetrahydrofuran (40 mL). Methanol (20 mL) was added, and the yellow solution was warmed to room temperature, stirred for 16 h, and quenched to colorless by addition of acetic acid (~20 drops). After a few min saturated sodium carbonate (15 mL) was added. The organic (top) layer was separated and the aqueous solution was extracted with methylene chloride (3×50 mL). The combined organic layer and extracts were dried (Mg2SO4), concentrated in vacuo, dissolved in minimal methylene chloride, and filtered through a short column of alumina (eluted with 2% methanol/methylene chloride). The filtrate was concentrated in vacuo to afford 1-azabicyclo[3.2.2]nonan-4-one (5.12 g, 74%) as an amorphous white solid.

reactant | tri-methylsilyldiazomethane hexane | 60 mmol, 2N, 30 mL | C[Si](C)(C)C=[N+]=[N-].CCCCCC
reactant | quinuclidin-3-one | 50 mmol, 6.26 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | Methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-azabicyclo[3.2.2]nonan-4-one | 5.12 g, 74% | N12CCC(C(CC1)CC2)=O | C8H13NO
